US03982011
B. 4-Cyclopropanecarbonylamino-3-nitro-benzoic acid
The acylation of 7.0 g (0.0384 mol) of 3-nitro-4-amino-benzoic acid with 4.42 g (0.0423 mol) of cyclopropanecarboxylic acid chloride was carried out as described in Example 3.

reactant | 3-nitro-4-amino-benzoic acid | 0.0384 mol, 7.0 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1N | C7H6N2O4
reactant | cyclopropanecarboxylic acid chloride | 0.0423 mol, 4.42 g | C1(CC1)C(=O)Cl | C4H5ClO
product | 4-Cyclopropanecarbonylamino-3-nitro-benzoic acid | C1(CC1)C(=O)NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H10N2O5
